US04985432
Three (3) grams of the thus obtained 2-benzylthio-7-chloro-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was dissolved in 50 ml of methanol, and 0.8 g of pyridine was added. The solution was stirred under refluxing for 30 minutes. After the reaction was finished, the reaction mixture was cooled and poured into water. The resulting mixture was extracted with toluene. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was washed with isopropyl ether. Thus, 2.1 g of 2-benzylthio-7-methoxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 70%.

reactant | 2-benzylthio-7-chloro-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | C(C1=CC=CC=C1)SC1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])Cl)S1 | C12H7ClN4O3S2
reactant | pyridine | 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
reactant | methanol | 50 ml | CO | CH4O
product | 2-benzylthio-7-methoxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 2.1 g, Yield 70% | C(C1=CC=CC=C1)SC1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])OC)S1 | C13H10N4O4S2
